Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
___ - cardiac catheterization
 
History of Present Illness:
___ w/ PMHx of bladder cancer and gallbladder cancer status post
urostomy, HFrEF (EF ___, T2DM presenting with
increasing shortness of breath and decreased urine output. Of
note the patient was recently referred to the ___ after
presenting to clinic for an appointment w/ his gerentologist and
complaining of a couple of weeks of worsening dyspnea on
exertion. He was seen in the CDAC by Dr. ___. While there he
had a TTE showing a decreased EF of ___ from prior and
worsened mitral regurgitation. He also had a VQ scan due to an
elevated D-Dimer which was read as low likelihood for recent PE.
He was discharged with plans to follow up with Dr. ___ in
clinic in early ___ and to have a nuclear stress test done
to evaluate for ischemic disease.

Since his discharge a few days ago, the patient reports
persistent dyspnea on exertion and was concerned by low UOP. He
has an ostomy bag as a result of his history of bladder cancer
and says he usually has anywhere from 800cc-1.5L of output daily
but for the last couple of days has had only about 100cc each
day. He denied any recent CP, palpitations, worsening ___ edema,
weight gain, orthopnea, or PND.

In the ED...
- Initial vitals: 97.6 82 110/61 18 98% RA 
- EKG: NSR, PVCs, LBBB
- Labs/studies notable for:
-H/H 12.4/38.2, WBC 9.6, plt 240
-Na 134, BUN 47, Cr 1.9 (BUN/Cr 49/2.1 on repeat after diuresis)
-CK-MB 5, Trop-T 0.03
-proBNP 2773

CXR: 
Slight interval worsening of bilateral ill-defined airspace
opacities which may represent an infectious process, in the
appropriate clinical setting. Alternatively, considering the
setting of cardiomegaly, this may represent pulmonary edema. 

- Patient was given:
___ 14:25 IV Furosemide 40 mg 

- Vitals on transfer: 97.6 82 110/61 18 98% RA 

On the floor, the patient was sitting comfortably on the edge of
his bed during interview. He reports stable dyspnea on exertion
but was encouraged by the uptick in his UOP after getting a dose
of IV Lasix in the ED. He denied any CP, palpitations, SOB at
rest, abdominal pain, n/v/d, or constipation.

 
Past Medical History:
Hx of BLADDER CANCER - now with bladder ostomy
History of gallbladder carcinoma status post cholecystectomy
Hearing loss
Hypercholesterolemia
Hypertension
Left Bell's palsy
Obesity
Osteoarthritis
Status post carotid endarterectomy
Chronic kidney disease
Coronary artery disease 
 
Social History:
___
Family History:
Per OMR:
-Mother: died of CAD at ___
-Father: died of dementia at ___
 
Physical Exam:
ADMISSION EXAM:
===============
VS: 97.5 99/69 79 18 97 Ra  
GENERAL: Pleasant, obese elderly M in NAD
HEENT: NCAT, MMM
NECK: JVP just above clavicle when sitting upright
CV: RRR, holosystolic murmur loudest at apex
PULM: Diminished throughout, crackles in bilateral bases
GI: Obese, soft, NT/ND, BS+, ostomy bag in place
EXTREMITIES: Mild LLE edema to shins bilaterally
PULSES: 2+ radial pulses bilaterally
NEURO: Grossly intact

DISCHARGE EXAM:
===============
VS:  
24 HR Data (last updated ___ @ 916)
    Temp: 97.6 (Tm 98.1), BP: 111/73 (97-133/55-79), HR: 74
(58-80), RR: 18 (___), O2 sat: 95% (94-99), O2 delivery: Ra  
Fluid Balance (last updated ___ @ 409) 
  Last 8 hours  Total cumulative -420ml
    IN: Total 0ml
    OUT:  Total 420ml, Urine Amt 420ml
  Last 24 hours  Total cumulative 220ml
    IN: Total 1340ml, PO Amt 1340ml
    OUT:  Total 1120ml, Urine Amt 1120ml    
TELE:  NSR with very frequent PVCs
GENERAL: Pleasant, obese elderly man sitting comfortably in 
chair
in NAD
HEENT: NCAT, MMM
NECK: Supple, JVP at ~10cm 
CV: Normal rate, irregular rhythm with frequent premature beats.
Holosystolic murmur loudest at apex.
PULM: Diminished throughout. No crackles, wheezes, or rhonchi.
GI: Obese, soft, NT/ND.
EXTREMITIES: Lukewarm. Legs are tense with 1+ pitting edema.
Punctate non-confluent erythematous rash on right shin ~7x7cm,
without clear demarcated border; outlined with skin marker,
receding from outline.
PULSES: 2+ radial pulses bilaterally
NEURO: Grossly intact
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:00AM   WBC-9.6 RBC-4.08* HGB-12.4* HCT-38.2* MCV-94 
MCH-30.4 MCHC-32.5 RDW-14.3 RDWSD-48.2*
___ 11:00AM   PLT COUNT-240
___ 11:00AM   NEUTS-75.9* LYMPHS-13.7* MONOS-8.4 EOS-0.8* 
BASOS-0.4 IM ___ AbsNeut-7.25* AbsLymp-1.31 AbsMono-0.80 
AbsEos-0.08 AbsBaso-0.04
___ 11:00AM   GLUCOSE-169* UREA N-47* CREAT-1.9* 
SODIUM-134* POTASSIUM-4.7 CHLORIDE-96 TOTAL CO2-22 ANION GAP-16
___ 11:00AM   proBNP-2773*
___ 12:46PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-MOD*
___ 12:46PM URINE  RBC-3* WBC-11* BACTERIA-MOD* YEAST-NONE 
EPI-0
___ 06:55PM   CK-MB-5 cTropnT-0.03*
___ 08:54PM   CALCIUM-9.4 PHOSPHATE-5.3* MAGNESIUM-2.1

PERTINENT LABS:
===============
___ 11:00AM BLOOD proBNP-2773*
___ 06:55PM BLOOD CK-MB-5 cTropnT-0.03*
___ 12:43AM BLOOD CK-MB-4 cTropnT-0.02*
___ 07:30AM BLOOD TSH-1.8
___ 01:31PM BLOOD Lactate-1.5

DISCHARGE LABS:
===============
___ 06:45AM BLOOD WBC-8.5 RBC-3.89* Hgb-11.9* Hct-36.3* 
MCV-93 MCH-30.6 MCHC-32.8 RDW-14.3 RDWSD-48.6* Plt ___
___ 06:45AM BLOOD Glucose-158* UreaN-59* Creat-2.0* Na-139 
K-3.9 Cl-96 HCO3-27 AnGap-16
___ 06:45AM BLOOD Calcium-9.8 Phos-4.6* Mg-2.3

IMAGING AND DIAGNOSTICS:
========================
CHEST (PA & LAT)Study Date of ___ 11:55 AM
IMPRESSION: 
Slight interval worsening of bilateral ill-defined airspace 
opacities which
may represent an infectious process, in the appropriate clinical 
setting. 
Alternatively, considering the setting of cardiomegaly, this may 
represent
pulmonary edema.

Cardiac Catheterization/Endovascular Physician ___ ___
Findings
• Elevated left and right heart filling pressures.
• Mild coronary coronary artery disease.

UNILAT LOWER EXT VEINS RIGHTStudy Date of ___ 3:01 ___
IMPRESSION: 
No evidence of deep venous thrombosis in the right lower 
extremity veins.

Cardiac Magnetic Resonance Report ___
CONCLUSION/IMPRESSION:
The left atrium is mildly dilated. The right atrium is mildly 
dilated.
There is normal left ventricular wall thickness The left 
ventricular enddiastolic
dimension was mildly increased with mildly increased 
enddiastolic
dimension index and mildly increased left ventricular 
enddiastolic
volume with mildly increased end-diastolic volume index.
There is moderate global left ventricular hypokinesis with focal
akinesis of the mid and basal inferior wall and the basal 
inferolateral
wall, with moderately depressed ejection fraction. Early 
gadolinium
enhancement images showed regional enhancement as described 
below. There is transmural early and late left ventricular 
gadolinium
enhancement in the basal and mid inferolateral wall and the 
basal
anterolateral wall, most consistent with myocardial infarction. 
Normal
origin of the right and left main coronary arteries. Normal 
aortic sinus
diameter with normal ascending aorta. Normal aortic arch 
diameter
with normal descending thoracic aorta. Normal abdominal aorta
diameter. Normal pulmonary artery diameter. The aortic valve has 
3
leaflets. There is no aortic valve stenosis. There is no 
pericardial
effusion. Pericardial thickness is normal.
IMPRESSION: Poor image quality due to frequent ectopy. Mildly
increased left ventricular cavity size with moderate systolic
dysfunction, with focal akinesis of the mid and basal inferior 
wall and
the basal inferolateral wall and hypokinesis of the remaining 
segments.
Transmural early and late gadolinium enhancement of the mid and
basal inferoalateral wall and the basal anterolateral wall.

MICROBIOLOGY:
=============
___ 12:46 pm URINE      UROSTOMY. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      GRAM POSITIVE BACTERIA.    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     8 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
P - Patient summary statement for admission
==================================
___ w/ PMHx of bladder cancer and gallbladder cancer status post 
urostomy, HFrEF (EF ___, T2DM presenting with 
increasing shortness of breath and decreased urine output.

A - Acute medical/surgical issues addressed
==================================
#Acute on chronic systolic heart failure
#Dyspnea on exertion 
Patient presented with worsening dyspnea most likely secondary 
to acute on chronic systolic heart failure. He was seen in the 
CDAC two days prior to admission during which he had TTE showing 
reduced EF w/ regional WMA. Admission chest x ray demonstrated 
interval worsening in pulmonary and he has cool extremities. 
Patient reported good dietary and medication adherence. No 
ongoing chest pain, EKG unchanged, and cardiac enzymes only 
mildly elevated. Left heart catheterization was without 
significantly worsening ischemia. Patient had significant 
ventricular ectopy on telemetry. Therefore, it is possible that 
worsening systolic function is secondary to frequent PVCs. 
Cardiac MRI was performed but the result was pending at the time 
of discharge. He was seen by electrophysiology and started on 
amiodarone. For management, he was diuresed with IV Lasix and 
transitioned to PO torsemide. For afterload, patient was started 
on hydralazine and isordil, lisinopril was held in setting of 
___ as below. For NHBK, beta blocker initially held given cool 
extremities and concern for cardiogenic shock, but was restarted 
at a lower dose given frequent ectopy and improvement in 
perfusion.

#Ventricular ectopy
Patient had significant ventricular ectopy on telemetry, 
including up to 10 beat runs of VT. Patient was hemodynamically 
stable and asymptomatic throughout hospitalization. As above, it 
is possible that PVC burden is contributing to worsening 
cardiomyopathy. Patient was started on amiodarone per EP 
recommendations.

#Decreasing urine output
#Acute on chronic kidney disease
Patient presented from home w/ decreased UOP over the last few 
days after recently starting PO Lasix. Likely pre-renal from 
heart failure exacerbation. Cr on admission was 1.9. Creatinine 
briefly improved to 1.4, but increased again likely complicated 
by contrast-induced nephropathy after coronary angiography. Cr 
on discharge was 2.0. Home lisinopril was held on discharge 
given ___.

#Borderline UA: Patient w/ altered anatomy due to history of 
cancer and ostomy in place. No systemic signs or symptoms of 
infection. Urine culture showed pan-sensitive E coli. Given that 
patient was asymptomatic, decision was made to defer 
antibiotics.

#RLE rash
Patient had nonconfluent punctate rash on his RLE, not 
consistent with cellulitis. U/S negative for DVT. Potentially 
contact dermatitis, as rash is near sock line. Rash improved 
without intervention.

C - Chronic issues pertinent to admission
==================================
#Hx of Carotid Stenosis, s/p R carotid endarterectomy
Increased atorvastatin dose

#HLD:
Increased atorvastatin

#HTN:
As above, patient was started on hydralazine and isordil for BP 
management. Lisinopril was held on discharge in the setting of 
___.

#T2DM:
Managed with insulin sliding scale while inpatient

#Bladder cancer status post prostatectomy with urostomy
Stable. Followed by outpatient urology

T - Transitional Issues
==================================
[ ] Patient was started on amiodarone 400mg daily for 
ventricular ectopy with a plan for a 1 week load. His dose will 
be decreased to 200mg daily beginning on ___.

[ ] Cardiac MRI was performed with results still pending at 
discharge.

[ ] Lisinopril was held on discharge given ___. Patient should 
have repeat Chem7 on ___ with his PCP. Pending improvement in 
renal function, the decision can be made to restart Lisinopril.

[ ] Patient was discharged on a new home diuretic dose. He 
should have repeat Chem7 and weight on ___ with his PCP. 
Diuretic dose can be adjusted as needed pending renal function 
and weight.

Discharge weight: 220lb
Discharge Cr: 2.0

CODE: Full (presumed)
CONTACT: HCP: ___ (daughter-HCP) - ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Lisinopril 2.5 mg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Cyanocobalamin 250 mcg PO DAILY 
7. Metoprolol Succinate XL 37.5 mg PO DAILY 
8. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1.  Amiodarone 400 mg PO DAILY Duration: 4 Doses 
RX *amiodarone 400 mg 1 (One) tablet(s) by mouth once a day Disp 
#*4 Tablet Refills:*0 
2.  Amiodarone 200 mg PO DAILY 
Start taking this medication on ___ 
RX *amiodarone 200 mg 1 (One) tablet(s) by mouth once a day Disp 
#*21 Tablet Refills:*0 
3.  HydrALAZINE 20 mg PO TID 
RX *hydralazine 10 mg 2 (Two) tablet(s) by mouth three times a 
day Disp #*180 Tablet Refills:*0 
4.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 (One) tablet(s) by mouth once 
a day Disp #*30 Tablet Refills:*0 
5.  Torsemide 60 mg PO DAILY 
RX *torsemide 20 mg 3 (Three) tablet(s) by mouth once a day Disp 
#*90 Tablet Refills:*0 
6.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 (One) tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
7.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 (One) tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
8.  Aspirin 81 mg PO DAILY  
9.  Cyanocobalamin 250 mcg PO DAILY  
10.  MetFORMIN (Glucophage) 500 mg PO BID  
11.  Vitamin D 1000 UNIT PO DAILY  
12. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until talking to your primary care 
doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
-Acute decompensated systolic heart failure
-Non-ischemic cardiomyopathy
-Ventricular ectopy
-___ on CKD

SECONDARY DIAGNOSES:
-HLD
-HTN
-Type II diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr ___,

It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
==========================  
-You were admitted to the hospital because you were feeling 
short of breath. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-You were admitted to the hospital because you had been feeling 
short of breath and you were found to have fluid on your lungs. 
This was felt to be due to a condition called heart failure, 
where your heart does not pump hard enough and fluid backs up 
into your lungs. You were given a diuretic medication through 
the IV to help get the fluid out.
-An ultrasound of your heart (echocardiogram) showed that the 
pumping function of your heart had decreased.
-You had a cardiac catheterization that showed the blood vessels 
of your heart are not significantly blocked.
-You had an MRI to look at the structure of your heart.
-You were started on new medications called hydralazine and 
isosorbide mononitrate to help control your blood pressure.
-The heart monitor showed that you had a lot of extra premature 
beats. You were started on a new medication called amiodarone to 
help control the extra beats.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
-Please take your medications as listed in discharge summary and 
follow up at the listed appointments. 
- Your weight at discharge is 220 pounds. Please weigh yourself 
today at home and use this as your new baseline.
-Weigh yourself every morning, call your primary doctor or your 
cardiologist if your weight goes up more than 3 lbs in one day 
or 5lbs in one week.

Thank you for allowing us to be involved in your care, we wish 
you all the best!

Your ___ Healthcare Team  

 
Followup Instructions:
___